US07781431B2
Step 10: methyl 5-(4-chlorophenyl)-6-cyclohexyl-3-formyl-4-{2-[(1-isopropylpyrrolidin-3-yl)(methyl)amino]-2-oxoethyl}-4H-thieno[3,2-b]pyrrole-2-carboxylate
A solution (0.13 M) of [5-(4-chlorophenyl)-6-cyclohexyl-3-formyl-2-(methoxycarbonyl)-4H-thieno[3,2-b]pyrrol-4-yl]acetic acid in DMF was treated with DIEA (3 eq.), HATU (1.5 eq.) and a solution (0.5 M) of 1-isopropyl-N-methylpyrrolidin-3-amine (1.5 eq.) in DMF. The reaction mixture was stirred at RT for 3 h. The reaction was quenched with aqueous NaHCO3 (saturated solution) and extracted with AcOEt. The combined organic phase was washed with brine and dried. Evaporation under reduced pressure gave a residue that was purified by flash chromatography on silica gel (1:49 Et3N/AcOEt) to afford the title compound (62%) as a solid.

reactant | [5-(4-chlorophenyl)-6-cyclohexyl-3-formyl-2-(methoxycarbonyl)-4H-thieno[3,2-b]pyrrol-4-yl]acetic acid | 0.13 M | ClC1=CC=C(C=C1)C1=C(C2=C(N1CC(=O)O)C(=C(S2)C(=O)OC)C=O)C2CCCCC2 | C23H22ClNO5S
reactant | DIEA | 3 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.5 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-isopropyl-N-methylpyrrolidin-3-amine | 0.5 M, 1.5 eq. | C(C)(C)N1CC(CC1)NC | C8H18N2
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 5-(4-chlorophenyl)-6-cyclohexyl-3-formyl-4-{2-[(1-isopropylpyrrolidin-3-yl)(methyl)amino]-2-oxoethyl}-4H-thieno[3,2-b]pyrrole-2-carboxylate | 62% | ClC1=CC=C(C=C1)C1=C(C2=C(N1CC(=O)N(C)C1CN(CC1)C(C)C)C(=C(S2)C(=O)OC)C=O)C2CCCCC2 | C31H38ClN3O4S
